US08207164B2
f) 5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-[1,4]oxazepan-3-one
To a refluxing solution of potassium tert-butylate (1.63 g, 14.52 mmol) in 555 ml t-BuOH was added dropwise a solution of) N-[1-(5-bromo-2-fluoro-phenyl)-1-difluoromethyl-3-hydroxy-propyl]-2-chloro-acetamide (2.72 g, 7.26 mmol) in 45 ml THF over a period of 40 minutes. The reaction mixture was cooled down and quenched with 1N HCl. EtOAc was added and the organic layer was washed with brine, dried with Na2SO4 and evaporated. The crude product was crystallized from DCM/TBME to provide the title compound as white crystals.

reactant | potassium tert-butylate | 14.52 mmol, 1.63 g | CC(C)(C)[O-].[K+]
reactant | N-[1-(5-bromo-2-fluoro-phenyl)-1-difluoromethyl-3-hydroxy-propyl]-2-chloro-acetamide | 7.26 mmol, 2.72 g | BrC=1C=CC(=C(C1)C(CCO)(C(F)F)NC(CCl)=O)F | C12H12BrClF3NO2
solvent | t-BuOH | 555 ml | CC(C)(C)O | C4H10O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | 5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-[1,4]oxazepan-3-one | BrC=1C=CC(=C(C1)C1(NC(COCC1)=O)C(F)F)F | C12H11BrF3NO2
